US05461044
557 mg of diphenylmethyl 7-phenylacetamido-3-(benzothiazol-2-yl)thio-3-cephem-4-carboxylate were dissolved in 6 ml of methylene chloride, and the resulting solution was then cooled to -15° C. Afterward, to the cooled solution were added 0.16 ml of pyridine and 268 mg of phosphorus pentachloride, followed by stirring the resultant mixture at -5° C. for 1 hour and 30 minutes. Next, the mixture was cooled to -20° C., and 2.1 ml of methanol were then added thereto. The resulting solution was stirred again at -5° C. for 3 hours to continue the reaction (for the removal of the 7-phenylacetyl group). Thereafter, 6 ml of water were added to the reaction solution which was then further stirred at the same temperature for 1 hour, followed by separation into the aqueous and organic layers. 6 ml of water were added to the resultant organic layer which was then adjusted to pH 7 with an aqueous saturated solution of sodium hydrogen carbonate. After separation from the aqueous layer, the collected organic layer was dried over anhydrous magnesium sulfate. The dried organic solution obtained was distilled under reduced pressure to remove the solvent therefrom, and the resultant residue was then purified by a column chromatography on 35 g of silica gel (as developed with mixed solvents of toluene and ethyl acetate at ratio of 1:1 by volume) to give diphenylmethyl 7-amino-3-(benzothiazol-2-yl)thio-3-cephem-4-carboxylate as white crystals.

reactant | diphenylmethyl 7-phenylacetamido-3-(benzothiazol-2-yl)thio-3-cephem-4-carboxylate | 557 mg | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=2SC3=C(N2)C=CC=C3)C(=S)OC(C3=CC=CC=C3)C3=CC=CC=C3)C1=O | C35H27N3O3S3
reactant | pyridine | 0.16 ml | N1=CC=CC=C1 | C5H5N
reactant | phosphorus pentachloride | 268 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | methanol | 2.1 ml | CO | CH4O
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | diphenylmethyl 7-amino-3-(benzothiazol-2-yl)thio-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)C=2SC3=C(N2)C=CC=C3)C(=S)OC(C3=CC=CC=C3)C3=CC=CC=C3)C1=O | C27H21N3O2S3
